US06297250B1
2,6-Dichloro-4,8-dipiperidinopyrimidopyrimidine (NU3002)
Piperidine (0.8 ml, 8 mmol) was added to tetrachloropyrimidopyrimidine (0.54 g, 2 mmol) in THF (15 ml) and the resulting solution was stirred for 10 minutes until a yellow precipitate formed. Water (75 ml) was added and the mixture stirred for a further 10 minutes. The precipitate was filtered under suction, washed with water and dried in vacuo (P2O5) yielding the title compound as a yellow powder (0.62 g, 75%), m.p. 240-241° C., δH (CDCl3, 200 MHz) 1.81 (12H, s, 2×(CH2)3), 4.15 (8H, s br, 2×N(CH2)2); m/z (El) 366 (M+−1), 198.

reactant | Piperidine | 8 mmol, 0.8 ml | N1CCCCC1 | C5H11N
reactant | tetrachloropyrimidopyrimidine | 2 mmol, 0.54 g | ClC1=NC(=NC2=C1N=C(N=C2Cl)Cl)Cl | C6Cl4N4
reactant | Water | 75 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2,6-Dichloro-4,8-dipiperidinopyrimidopyrimidine | 0.62 g, 75% | ClC=1N=C(C2=C(C(=NC(=N2)Cl)N2CCCCC2)N1)N1CCCCC1 | C16H20Cl2N6
